US08980937B2
To the solution of 1-(3-bromo-4-nitrophenyl)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidine (1.10 g) in the mixed solvent of 1,4-dioxane and ethanol was added stannous chloride dihydrate (2.05 g) and a small amount of concentrated hydrochloric acid, and the mixture was then stirred 4 hours at 90° C. The mixture was cooled to room temperature and then poured into the mixed solution of ethyl acetate and water, which was then neutralized with sodium hydrogen carbonate with vigorous stirring. After filtration of precipitate through Celite, the organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic layer was combined, which was then washed with brine and dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the solvent was distilled away under the reduced pressure, and the residue was then purified by silica gel chromatography to yield 2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-pyrrolidin-1-yl]aniline (0.73 g). 1H-NMR (CDCl3) δ: 2.44-2.54 (1H, m), 2.75-2.83 (1H, m), 3.32-3.50 (2H, m), 3.56-3.76 (3H, m), 3.92 (1H, d), 6.46 (1H, dd), 6.70-6.78 (2H, m), 7.29 (2H, br s), 7.37 (1H, t).

reactant | 1-(3-bromo-4-nitrophenyl)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidine | 1.10 g | BrC=1C=C(C=CC1[N+](=O)[O-])N1CC(CC1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H12BrCl2F3N2O2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-pyrrolidin-1-yl]aniline | 0.73 g | BrC1=C(N)C=CC(=C1)N1CC(CC1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H14BrCl2F3N2
